US04731368
2-Sulfamoylthieno[3,2-c]pyridin-4(5H)-one
To a suspension of thieno[3,2-c]pyridin-4(5H)-one (1.51 g, 10 mmol) in distilled tetrahydrofuran (20 ml), cooled to -70° C. and under a nitrogen atmosphere, was added dropwise 0.7 M lithium diisopropylamide in THF (36 ml, 25 mmol). After one hour, sulfur dioxide gas was bubbled over the surface of this suspension and the reaction was allowed to gradually warm to room temperature. The mixture was diluted with diethyl ether and the precipitated lithium sulfinate intermediate was collected (3.6 g). This salt was dissolved in water (25 ml) and sodium acetate trihydrate (5.4 g, 66 mmol) and hydroxylamine-O-sulfonic acid (2.5 g, 22 mmol) were added. After stirring for 16 hours, the precipitated product was collected by filtration. The product was purified by recrystallization from hot dimethyl sulfoxide by dilution with ethanol to give 1.35 g (59% yield); m.p. 300°-301° C.

reactant | thieno[3,2-c]pyridin-4(5H)-one | 10 mmol, 1.51 g | S1C=CC=2C(NC=CC21)=O | C7H5NOS
reactant | lithium diisopropylamide | 0.7 M | C(C)(C)[N-]C(C)C.[Li+]
reactant | sodium acetate trihydrate | 66 mmol, 5.4 g | O.O.O.C(C)(=O)[O-].[Na+]
reactant | hydroxylamine-O-sulfonic acid | 22 mmol, 2.5 g | NOS(=O)(=O)O | H3NO4S
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | THF | 25 mmol, 36 ml | C1CCOC1 | C4H8O
product | 2-Sulfamoylthieno[3,2-c]pyridin-4(5H)-one | 59% yield | S(N)(=O)(=O)C1=CC=2C(NC=CC2S1)=O | C7H6N2O3S2
